US08030337B2
6-Amino-1-indanone
6-Nitro-1-indanone (10.0 g, 56.4 mmol) was dissolved in methanol (200 mL), a 10% palladium-carbon powder (500 mg) was added, and the mixture was stirred at room temperature for 14 hr under a hydrogen atmosphere. To the reaction solution were added dichloromethane and ethyl acetate to dissolve the precipitated crystals, and the catalyst was filtered off. The filtrate was concentrated under reduced pressure, and the residue was washed with methanol to give the title compound (6.71 g, yield 81%).

reactant | 6-Nitro-1-indanone | 56.4 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C2CCC(C2=C1)=O | C9H7NO3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | 6-Amino-1-indanone | 6.71 g, yield 81% | NC1=CC=C2CCC(C2=C1)=O | C9H9NO
